US05859035
Step A: 1-o-Tolyl-propan-1-one
To an oven dried 100 ml 3 neck flask equipped with septa, thermo probe and stirred bar was stirring a solution of o-tolunitrile (1 ml, 8.5 mmol) in 40 ml dry THF at 0° C. To this cold, well stirred solution was added a solution of ethylmagnesium bromide (17 ml, 17 mmol) in THF via syringe while keeping the temperature below 5° C. Removed ice bath and allowed the yellow solution to stir at ambient temperature for 24 h. The reaction was cooled to 0° C. and quenched with a solution of saturated NH4Cl (50 ml), extracted with 2× EtOAc and washed with H2O, brine, drying (MgSO4), filtration and removal of solvent in vacuo to give a crude oil. This material was chromatographed (Silica gel, 3% EtOAc/Hexane) to affort the title product.

reactant | o-tolunitrile | 8.5 mmol, 1 ml | C=1(C(=CC=CC1)C#N)C | C8H7N
reactant | ethylmagnesium bromide | 17 mmol, 17 ml | C(C)[Mg]Br
reactant | THF | 40 ml | C1CCOC1 | C4H8O
product | 1-o-Tolyl-propan-1-one | C1(=C(C=CC=C1)C(CC)=O)C | C10H12O
